US04187306
16.4 g (0.05 mol) of 2-chloromethyl-3-(2-methoxycarbonyl-phenyl)-4H-quinazolin-4-one and 12.1 g (0.1 mol) of 2-phenylethylamine in 100 ml of ethylene glycol monomethyl ether are heated to 100° C. for 5 hours. The solvent is evaporated off on a Rotavapor and 100 ml of water are added to the semi-solid residue. The colourless crystals are filtered off and washed with hot methanol. 5.8 g (30.5% of theory) of 6-(2-phenylethyl)-6,7-dihydro-5H,13H-quinazolino[3,2-a][1,4]benzodiazepine-5,13-dione are obtained.

reactant | 2-chloromethyl-3-(2-methoxycarbonyl-phenyl)-4H-quinazolin-4-one | 0.05 mol, 16.4 g | ClCC1=NC2=CC=CC=C2C(N1C1=C(C=CC=C1)C(=O)OC)=O | C17H13ClN2O3
reactant | 2-phenylethylamine | 0.1 mol, 12.1 g | C1(=CC=CC=C1)CCN | C8H11N
solvent | ethylene glycol monomethyl ether | 100 ml | COCCO | C3H8O2
product | 6-(2-phenylethyl)-6,7-dihydro-5H,13H-quinazolino[3,2-a][1,4]benzodiazepine-5,13-dione | 5.8 g, 30.5% | C1(=CC=CC=C1)CCN1CC=2N(C3=C(C1=O)C=CC=C3)C(C=3C=CC=CC3N2)=O | C24H19N3O2
